US06090817
A stirred mixture of 4'-methoxy-3'-(3-nitrophenyl)-[1,1'-biphenyl]-4-carboxylic acid, ethyl ester (1.88 g, 5 mmol) and aqueous sodium hydroxide (20 mL of 2 M) in ethanol (30 mL) is heated at 90° C. for 3 h. The cooled mixture was then acidified with hydrochloric acid (100 mL of 1.0 M) and the resulting precipitate is filtered off and dried to give 4'-methoxy-3'-(3-nitrophenyl)-[1,1'-biphenyl]-4-carboxylic acid as a colourless crystalline solid, m.p. 270-274° C.

reactant | 4'-methoxy-3'-(3-nitrophenyl)-[1,1'-biphenyl]-4-carboxylic acid, ethyl ester | 5 mmol, 1.88 g | COC1=C(C=C(C=C1)C1=CC=C(C=C1)C(=O)OCC)C1=CC(=CC=C1)[N+](=O)[O-] | C22H19NO5
reactant | sodium hydroxide | 2 M, 20 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1.0 M, 100 mL | Cl | ClH
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | 4'-methoxy-3'-(3-nitrophenyl)-[1,1'-biphenyl]-4-carboxylic acid | COC1=C(C=C(C=C1)C1=CC=C(C=C1)C(=O)O)C1=CC(=CC=C1)[N+](=O)[O-] | C20H15NO5
